US05099021
N-(4-isopropylphenyl-N',N'-dimethylurea
3.35 g (0.038 mol) of N,N-dimethylurea and 3.38 g (0.025 mol) of 4-isopropylaniline were added with stirring into 20 ml of 1,2,4-trichlorobenzene. The reaction mixture was heated to 205° C., dimethylamine being introduced from 120° C. After 5.5 hours, 8.8 g (0.19 mol) of dimethylamine had been introduced and the reaction was complete.

reactant | N,N-dimethylurea | 0.038 mol, 3.35 g | CN(C(=O)N)C | C3H8N2O
reactant | 4-isopropylaniline | 0.025 mol, 3.38 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | dimethylamine | CNC | C2H7N
reactant | dimethylamine | 0.19 mol, 8.8 g | CNC | C2H7N
solvent | 1,2,4-trichlorobenzene | 20 ml | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | 4-isopropylphenyl-N',N'-dimethylurea | C(C)(C)C1=CC=C(C=C1)NC(=O)N(C)C | C12H18N2O
